US06740662B1
To a 10 ml ethyl acetate solution containing 570 mg of 3-(1-tert-butoxycarbonylpiperazin-4-yl)-4-(3-chlorophenyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one was added a 10 ml 4M hydrogen chloride-ethyl acetate solution, followed by stirring at room temperature for 1 hour. After adding water, the reaction mixture was neutralized with 1M sodium hydroxide aqueous solution, and then extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by a silica gel column chromatography (chloroform-methanol-aqueous ammonia) and then recrystallized from diisopropyl ether to obtain 115 mg of 4-(3-chlorophenyl)-1-ethyl-7-methyl-3-(piperazin-1-yl)-1,8-naphthyridin-2(1H)-one as pale yellow crystals.

reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | 3-(1-tert-butoxycarbonylpiperazin-4-yl)-4-(3-chlorophenyl)-1-ethyl-7-methyl-1,8-naphthyridin-2(1H)-one | 570 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(N(C2=NC(=CC=C2C1C1=CC(=CC=C1)Cl)C)CC)=O | C26H31ClN4O3
reactant | hydrogen chloride-ethyl acetate | 4M, 10 ml | C(C)(=O)OCC.Cl
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(3-chlorophenyl)-1-ethyl-7-methyl-3-(piperazin-1-yl)-1,8-naphthyridin-2(1H)-one | 115 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)N1CCNCC1 | C21H23ClN4O
